US07696200B2
A solution of 7-bromo-1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene (200 mg, 0.476 mmol), triethylamine (120 mg, 1.19 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane complex (19 mg, 29 μmol) in ethanol (2 mL) and ethyl acetate (2 mL) was heated at 110° C. under a carbon monoxide atmosphere (70 bar) for 20 h. The reaction mixture was evaporated and the residue chromatographed (SiO2, toluene-acetonitrile gradient) to produce 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene-7-carboxylic acid ethyl ester (132 mg, 67%). Off-white solid, MS (ISP)=413.2 (M+H)+.

reactant | 7-bromo-1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene | 0.476 mmol, 200 mg | BrC1=CN=C2OCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C14H12BrClN2O4S
reactant | triethylamine | 1.19 mmol, 120 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene-7-carboxylic acid ethyl ester | 132 mg, 67% | C(C)OC(=O)C1=CN=C2OCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C17H17ClN2O6S
